US09353093B2
To a degassed solution of 2-bromo-4-(N-tert-butyloxycarbonylamino)thiophene (261 mg, 0.94 mmol, 1 eq), 1-(2-ethynylphenyl)urea (200 mg, 1.5 eq), and triphenylphosphine (6.2 mg, 0.025 eq) in anhydrous triethylamine (2 mL) and DMF (0.5 mL) was added bis(triphenylphosphine)palladium(II) dichloride (66 mg, 0.1 eq) and copper(I) iodide (18 mg, 0.1 eq). The mixture was stirred and heated at 80° C. for 30 minutes, then cooled to room temperature and diluted with ethyl acetate. It was washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, and the solid residue was subject to a gradient column chromatography (EtOAc-Hex from 1;100 to 1:1) to yield tert-butyl[5-({2-[(aminocarbonyl)amino]phenyl}ethynyl)-3-thienyl]carbamate as a yellow oil (194 mg) which was converted to a foam after dried in vacuo.

reactant | 2-bromo-4-(N-tert-butyloxycarbonylamino)thiophene | 0.94 mmol, 261 mg, 1 eq | BrC=1SC=C(C1)NC(=O)OC(C)(C)C | C9H12BrNO2S
reactant | 1-(2-ethynylphenyl)urea | 200 mg, 1.5 eq | C(#C)C1=C(C=CC=C1)NC(=O)N | C9H8N2O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 66 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 18 mg, 0.1 eq | [Cu]I
catalyst | triphenylphosphine | 6.2 mg, 0.025 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | tert-butyl[5-({2-[(aminocarbonyl)amino]phenyl}ethynyl)-3-thienyl]carbamate | 194 mg | C(C)(C)(C)OC(NC1=CSC(=C1)C#CC1=C(C=CC=C1)NC(=O)N)=O | C18H19N3O3S
